US06953787B2
N-Trifluoroacetyl-7-hydroxy-8-iodo-1-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine
A solution of N-trifluoroacetyl-8-iodo-7-methoxy-1-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine (80 mg, 0.19 mmol) in dichloromethane (3 mL) was treated with BBr3 (0.40 mL of a 1.0M solution in CH2Cl2, 0.40 mmol) and stirred overnight at 20 C. The excess BBr3 was quenched with water and the product mixture was diluted with ether (20 mL), washed with Na2CO3 (10 mL) and brine (10 mL), dried with Na2SO4 and concentrated. Flash chromatography (15% EtOAc in hexane, silica) resulted in 74 mg of a white solid. MS calculated for C13H13F3INO2+H: 400, observed: 400.

reactant | N-trifluoroacetyl-8-iodo-7-methoxy-1-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine | 0.19 mmol, 80 mg | FC(C(=O)N1CCC2=C(C(C1)C)C=C(C(=C2)OC)I)(F)F | C14H15F3INO2
reactant | BBr3 | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | N-Trifluoroacetyl-7-hydroxy-8-iodo-1-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine | 74 mg | FC(C(=O)N1CCC2=C(C(C1)C)C=C(C(=C2)O)I)(F)F | C13H13F3INO2
